;*
;* Tungsten lamp simulator model File: LAMP.LIB
;* Author: Gerhard Krucker, Zaunackerstrasse 9, CH-3113 Rubigen
;* 27-SEP-2004
;*
;*
.SUBCKT LAMP 1 61 ; Hi Lo nodes
+ PARAMS: VLnom=12V PLnom=0.1W ; Mandatory parameters: Nominal lamp voltage and power
H1 2 0 VH1 1
VH1 1 3 0V ; Control voltage source is needed by H1
V2 5 0 300V ; Base temperature for polynomial approximation
RL2 4 5 {2600/{PLnom}}
V3 9 0 {{VLnom}*{VLnom}/{PLnom}}
E1 3 6 POLY(2) 2 0 8 0 0 0 0 0 1 0
G1 0 4 POLY(2) 2 0 3 6 0 0 0 0 1 0
C1 4 0 {1570u*{PLnom}} IC={{TEMP}+273} ; Use system temperature for OP
E3 8 0 POLY(2) 9 0 7 0 0 0 0 0 1 0
R11 0 7 1MEG
R10 61 6 1E-6
E2 7 0 POLY(1) 4 0 0.026812569 3.98407E-05 3.40385E-07 -1.47157E-10 2.21963E-14
.ENDS